US06051712
In an analogous manner to the procedure described under (d), from tert-butyl (3RS,4RS)-4-(4-aminomethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate by acylation with phenylacetyl chloride there was obtained crude tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(phenylacetylamino-methyl)-phenyl]-piperidine-1-carboxylate, which was used in the following step without further purification and characterization.

reactant | tert-butyl (3RS,4RS)-4-(4-aminomethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | NCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C28H34N2O3
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(phenylacetylamino-methyl)-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CNC(CC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C36H40N2O4
